US06995179B2
1) Synthesis of 3-(pyridine-4-yl)-2-propene-1-yl acetoacetate:
495 mg (3.66 mmol)f 3-(pyridine-4-yl)-2-propene-1-ol, 0.61 ml (4.38 mmol) of triethylamine and 0.35 ml (4.54 mmol) of diketene were heated to 70° C. under stirring in 20 ml of toluene for 2 hours. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture at room temperature. After the extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | 3-(pyridine-4-yl)-2-propene-1-ol | N1=CC=C(C=C1)C=CCO | C8H9NO
reactant | triethylamine | 4.38 mmol, 0.61 ml | C(C)N(CC)CC | C6H15N
reactant | diketene | 4.54 mmol, 0.35 ml | C=C1CC(=O)O1 | C4H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(pyridine-4-yl)-2-propene-1-yl acetoacetate | C(CC(=O)C)(=O)OCC=CC1=CC=NC=C1 | C12H13NO3
